US06900216B2
A mixture of 2-bromo-1-(4-chlorobenzo[b]thiophen-2-yl]ethan-1-one (0.42 g), 2-imidazolidinethione (0.11 g) and ethanol (9 ml) was heated under reflux for 20 minutes. Acetic acid (4 ml) was added and the mixture was heated under reflux for 17 hours then cooled in ice-water. The resulting solid was collected by filtration and dried in vacuo at 60° C. to give 3-(4-chlorobenzo[b]thiophen-2-yl)-5,6-dihydroimidazo[2,1-b]thiazole hydrobromide (0.37 g) as a white solid, m.p. 273-274° C.

reactant | 2-bromo-1-(4-chlorobenzo[b]thiophen-2-yl]ethan-1-one | 0.42 g | BrCC(=O)C1=CC2=C(S1)C=CC=C2Cl | C10H6BrClOS
reactant | 2-imidazolidinethione | 0.11 g | N1C(NCC1)=S | C3H6N2S
reactant | ethanol | 9 ml | C(C)O | C2H6O
solvent | Acetic acid | 4 ml | C(C)(=O)O | C2H4O2
product | 3-(4-chlorobenzo[b]thiophen-2-yl)-5,6-dihydroimidazo[2,1-b]thiazole hydrobromide | 0.37 g | Br.ClC1=CC=CC=2SC(=CC21)C=2N1C(SC2)=NCC1 | InChI=1S/C13H9ClN2S2.BrH/c14-9-2-1-3-11-8(9)6-12(18-11)10-7-17-13-15-4-5-16(10)13;/h1-3,6-7H,4-5H2;1H
